US04933355
5-(2-Allylaminothiazol-4-ylmethylene)rhodanine-3-acetic acid
The reaction described in Example 1 was repeated, but using 3.0 g of 2-allylaminothiazole-4-carbaldehyde, 2.8 g of rhodanine-3-acetic acid, 2.1 g of ammonium chloride, 2.1 ml of 28% v/v aqueous ammonia and 70 ml of ethanol giving 3.3 g of the title compound as brown needles.

reactant | 2-allylaminothiazole-4-carbaldehyde | 3.0 g | C(C=C)NC=1SC=C(N1)C=O | C7H8N2OS
reactant | rhodanine-3-acetic acid | 2.8 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 2.1 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 70 ml, 3.3 g | C(C)O | C2H6O
product | 5-(2-Allylaminothiazol-4-ylmethylene)rhodanine-3-acetic acid | C(C=C)NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C12H11N3O3S3
